US06559172B1
Preparation of (4R*,5R*)-5-(3,4-Dichlorophenyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole
In a manner analogous to Preparation 1, 3,4-dichlorobenzaldehyde (0.56 g, 3.20 mmol), tosylmethylisocyanide (0.75 g, 3.84 mmol) and NaCN (0.02 g, 0.40 mmol) gave the desired compound as a tan solid. 1H NMR (300 MHz, CDCl3) δ 7.85 (d, J=8.3 Hz, 2H), 7.50 (d, J=8.3 Hz, 1H), 7.35 (m, 3H), 7.15 (m, 2H), 6.00 (d, J=6.2 Hz. 1H), 4.96 (dd, J=6.2, 1.7 Hz, 1H), 2.47 (s, 3H).

reactant | 3,4-dichlorobenzaldehyde | 3.20 mmol, 0.56 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | tosylmethylisocyanide | 3.84 mmol, 0.75 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.40 mmol, 0.02 g | [C-]#N.[Na+]
product | (4R*,5R*)-5-(3,4-Dichlorophenyl)-4-toluenesulfonyl-4,5-dihydro-1,3-oxazole | ClC=1C=C(C=CC1Cl)[C@@H]1[C@H](N=CO1)S(=O)(=O)C=1C(=CC=CC1)C | C16H13Cl2NO3S
